US07902375B2
Step 3: 2-(3-Propyl-[1,2,4]oxadiazol-5-yl)-ethylamine
TFA (6 ml) is added to a stirred solution of [2-(3-propyl-[1,2,4]oxadiazol-5-yl)-ethyl]-carbamic acid tert-butyl ester (0.67 g, 2.62 mmol) in DCM (10 ml). After 1 hor the solvents are removed to afford the titled compound.

reactant | TFA | 6 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | [2-(3-propyl-[1,2,4]oxadiazol-5-yl)-ethyl]-carbamic acid tert-butyl ester | 2.62 mmol, 0.67 g | C(C)(C)(C)OC(NCCC1=NC(=NO1)CCC)=O | C12H21N3O3
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | 2-(3-Propyl-[1,2,4]oxadiazol-5-yl)-ethylamine | C(CC)C1=NOC(=N1)CCN | C7H13N3O
